US07713969B2
(±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(4-bromophenyl)pyrrolidine-2,5-dione was prepared according to Example 40 replacing 2-chloro-4-fluorophenylacetamide with 4-bromophenylacetamide. Yield 33.1 mg, 8.1%. 1H NMR (DMSO-d6) 400 MHz δ: 11.55 (s, 1H), 7.53 (dt, 2H, J=8.82.0 Hz), 7.34 (dt, 3H, J=8.02.0 Hz), 7.15 (dd, 1H, J=7.61.0 Hz), 6.86 (m, 2H), 4.53 (d, 1H, J=8.0 Hz), 4.37 (d, 1H, J=8.0 Hz), 4.10 (t, 2H, J=1.6 Hz), 2.90 (t, 2H, J=2.0 Hz), 2.12 (t, 2H, J=1.8 Hz).

reactant | 2-chloro-4-fluorophenylacetamide | ClC1=C(C=CC(=C1)F)CC(=O)N | C8H7ClFNO
reactant | 4-bromophenylacetamide | BrC1=CC=C(C=C1)CC(=O)N | C8H8BrNO
product | (±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(4-bromophenyl)pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=CC=C(C=C2)Br)=O)=O | C21H17BrN2O2
